US05597922
3-Methoxy-2-quinolone (5).
To a mixture of 1.05 g (7.1 mmol) of isatin in 15 mL of ether in ice-bath was added dropwise a solution of diazomethane in ether (prepared from 4.4 g (20 mmol) of Diazald according to Aldrichimica Acta 16:3 (1983)). The resulting solution was stirred in ice-bath for 3 h then room temperature overnight. The mixture was filtered and dried to leave white solid 0.684 g (52%), mp 188°-189° C. (lit. 191° C.; Greibrokk and Undheim, Acta Chem. Scand. 25:2935 (1971)). 1H NMR (CDCl3) 3.977 (s, 3), 7.014 (s, 1), 7.21 (m, 1), 7.39 (m, 2), 7.509 (d, 1, J=7.8), 11.429 (s, 1).

reactant | isatin | 7.1 mmol, 1.05 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | Diazald | 20 mmol | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 20 mmol, 4.4 g | CCOCC | C4H10O
product | 3-Methoxy-2-quinolone | 0.684 g, 52% | COC=1C(NC2=CC=CC=C2C1)=O | C10H9NO2
